US07612055B2
b) 2-But-3-enylamino-6-methoxy-isonicotinic acid step c of example 11
A mixture of 1.0 g (5.3 mmol) 2-chloro-6-methoxy-isonicotinic acid, 4.4 g (53 mmol, 86% pure by NMR) but-3-enylamine and 85 mg (0.53 mmol) CuSO4 in 10 ml H2O is stirred in a pressurized reaction vessel for 36 h at 140° C. The reaction mixture is diluted with an 0.5 M aqueous citric acid and extracted two times with EtOAc. The combined extracts are washed with citric acid solution, water and brine, dried over Na2SO4, filtered and the solvent is evaporated. Chromatography on silica gel yields the title compound as an off-white powder.

reactant | 2-chloro-6-methoxy-isonicotinic acid | 5.3 mmol, 1.0 g | ClC=1C=C(C(=O)O)C=C(N1)OC | C7H6ClNO3
reactant | but-3-enylamine | 53 mmol, 4.4 g | C(CC=C)N | C4H9N
solvent | H2O | 10 ml | O | H2O
solvent | citric acid | 0.5 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | CuSO4 | 0.53 mmol, 85 mg | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2-But-3-enylamino-6-methoxy-isonicotinic acid | C(CC=C)NC=1C=C(C(=O)O)C=C(N1)OC | C11H14N2O3
